US07504403B2
1-(2-{1-Methyl-2-[4-(2-nitro-propenyl)-phenyl]-ethylamino}-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
The mixture of 4-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl) -pyrimidin-2-ylamino]-propyl}-benzaldehyde (35 mg, 0.08 mmol), ammonium acetate (10 mg, 0.16 mmol) in nitroethane (5 mL) was heated to reflux for 4 h. The mixture was brought to room temperature and concentrated. The residue was dissolved in ethylacetate (20 mL), washed with water, saturated sodium bicarbonate, brine, dried over magnesium sulfate and concentrated. M+1=524.

reactant | 4-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl) -pyrimidin-2-ylamino]-propyl}-benzaldehyde | 0.08 mmol, 35 mg | O=C1CCN(C=2N1CC=C(N2)C2=CC=CC=C2)C2=NC(=NC=C2)NC(CC2=CC=C(C=O)C=C2)C | C27H26N6O2
reactant | ammonium acetate | 0.16 mmol, 10 mg | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 5 mL | [N+](=O)([O-])CC | C2H5NO2
product | 1-(2-{1-Methyl-2-[4-(2-nitro-propenyl)-phenyl]-ethylamino}-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | CC(CC1=CC=C(C=C1)C=C(C)[N+](=O)[O-])NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C29H29N7O3
